US07022724B2
a) 6-Iodo-2,3-dihydroisoindol-1-one
3-Iodobenzoic acid (50 g, 0.2 mol) and N-hydroxymethylphthalimide (35.7 g, 0.2 mol) were suspended in concentrated sulfuric acid (200 ml) and heated for three hours at 80° C. The reaction mixture was poured onto ice and the product was filtered, washed with water and dilute ammonium hydroxide and then stirred in hot (70° C.) ethanol for 1.5 hours before cooling and drying to yield the title compound (24 g, 45%). 1H NMR (360 MHz, d6 DMSO) δ 8.63 (1H, brs), 7.95 (1H, s), 7.92 (1H, d, J=7 and 1 Hz), 7.42 (1H, d, J=7 and 1 Hz), 4.33 (2H, s). m/z (ES+) 260 (M+). b) 5-Iodo-3-methoxy-1H-isoindolium trifluoromethanesulfonate Prepared in a similar manner to that of Example 1a using 6-iodo-2,3-dihydro-isoindol-1-one. 1H NMR (360 MHz, CDCl3) δ 12.5 (1H, brs), 8.26 (1H,d, J=1 Hz), 8.14 (1H, dd, J=7 and 1 Hz), 7.53 (1H, d, J=7 Hz), 5.06 (2H, s), 4.58 (3H, s). m/z (ES+) 274 (M+). c) 5-Methyl-3-phenylisoxazole-4-carboxylic acid NA-(6-iodo-3H-isoindol-1-yl)-hydrazide Prepared in a similar manner to that of Example 1b using 5-Iodo-3-methoxy-1H-isoindolium trifluoromethanesulfonate d) 8-Iodo-3-(5-methyl-3-phenylisoxazol-4-yl)-5H-[1,2,4]triazolo[3,4-a]isoindole 5-Methyl-3-phenylisoxazole-4-carboxylic acid N′-(6-iodo-3H-isoindol-1-yl)-hydrazide (19.96 g) was heated in acetic acid (200 ml) at reflux for five hours. The reaction was cooled and evaporated. The residue was purified by column chromatography on silica using 40% ethyl acetate/isohexane to yield 8-iodo-3-(5-methyl-3-phenylisoxazol-4-yl)-5H-[1,2,4]-triazolo[3,4-a]isoindole (5.6 g). 1H NMR (360 MHz, CDCl3) 7.72 (1H,d, J=1 Hz), 7.53–7.34 (6H,m), 7.01 (1H, d, J=7 Hz) 3.93 (2H, s), 2.71 (3H, s). m/z (ES+) 441 (M+). e) 3-(5-Methyl-3-phenylisoxazol-4-yl)-5H-[1,2,4]triazolo[3,4-a]isoindole-8-carboxylic acid methyl ester 8-Iodo-3-(5-methyl-3-phenylisoxazol-4-yl)-5H-[1,2,4]triazolo[3,4-a]isoindole (3.1 g), triethylamine (6 ml) and tetrakis(triphenylphosphine)palladium(0) (0.5 g) were suspended in a degassed mixture of 1,4-dioxane (50 ml) and methanol (100 ml). The reaction was heated to 75° C. and a slow stream of carbon monoxide was passed through the reaction mixture for 16 hours. The reaction was evaporated and purified by column chromatography on silica to yield the title compound (1.9 g). 1H NMR (360 MHz, CDCl3) 8.46 (1H, s), 7.83 (1H, d, J=7 Hz), 7.45–7.37 (5H, m), 7.24 (1H, d, J=7 Hz), 4.01(2H, s), 3.79 (3H, s), 2.71(3H, s). m/z (ES±) 373 (M+). f) 8 (2-Imidazolinyl)-3-(5-methyl-3-phenylisoxazol-4-yl)-5H-[1,2,4]triazolo[3,4-a]isoindole Ethylenediamine (160 mg) in toluene (5 ml) was cooled to 5° C. and trimethylaluminium (2 M in toluene, 1 ml) was added. The reaction mixture was allowed to warm to 25° C. and then 3-(5-methyl-3-phenylisoxazol-4-yl)-5H-[1,2,4]triazolo[3,4-a]isoindole-8-carboxylic acid methyl ester (200 mg) was added and the reaction mixture was heated to reflux for 2 hours. The reaction was cooled, methanol was added and the reaction was evaporated and the residue was purified by column chromatography on silica to yield the title compound after recrystallisation from ethyl acetate (80 mg). 1H NMR (360 MHz, d6 DMSO) δ 8.32 (1H, s), 7.96 (1H, dd, J=7 and 1 Hz), 7.56–7.41 (6H, m), 4.59 (2H, s), 3.66 (3H, s), 2.59 (3H, s). m/z (ES+) 383(M+).

reactant | 3-Iodobenzoic acid | 0.2 mol, 50 g | IC=1C=C(C(=O)O)C=CC1 | C7H5IO2
reactant | N-hydroxymethylphthalimide | 0.2 mol, 35.7 g | OCN1C(C=2C(C1=O)=CC=CC2)=O | C9H7NO3
solvent | sulfuric acid | 200 ml | S(O)(O)(=O)=O | H2O4S
product | 6-Iodo-2,3-dihydroisoindol-1-one | 24 g, 45% | IC1=CC=C2CNC(C2=C1)=O | C8H6INO
